US09260427B2
Prepared using General Procedure 22: To a stirred solution of 2-amino-2-(2,5-dimethyloxazol-4-yl)acetic acid hydrochloride (150 mg, 0.726 mmol) in MeOH (5 mL) was added HCl (1.2 mL of a 37% aqueous solution, 14.5 mmol) and the mixture heated under reflux for 4 h. The mixture was allowed to cool and solvents evaporated. The residue was treated with MeOH (12 mL) and filtered. The filtrate was evaporated to afford 135 mg (84%) of methyl 2-amino-2-(2,5-dimethyloxazol-4-yl)acetate hydrochloride INT-43. LCMS-ESI (m/z) calculated for C8H12N2O3: 184.1. found 185.1 [M+H]+, tR=0.23 min (Method 11). 1H NMR (400 MHz, DMSO) δ 8.94 (br s, 3H), 5.35 (s, 1H), 3.73 (s, 3H), 2.38 (s, 3H), 2.36 (s, 3H).

reactant | 2-amino-2-(2,5-dimethyloxazol-4-yl)acetic acid hydrochloride | 0.726 mmol, 150 mg | Cl.NC(C(=O)O)C=1N=C(OC1C)C
reactant | HCl | Cl | ClH
reactant | MeOH | 5 mL | CO | CH4O
product | methyl 2-amino-2-(2,5-dimethyloxazol-4-yl)acetate hydrochloride | 135 mg, 84% | Cl.NC(C(=O)OC)C=1N=C(OC1C)C | InChI=1S/C8H12N2O3.ClH/c1-4-7(10-5(2)13-4)6(9)8(11)12-3;/h6H,9H2,1-3H3;1H
